US04032588
A 2 l-capacity, 3-neck, round-bottom flask was charged with 1000 ml of liquid ammonia and 11.5 g of metallic sodium was added thereto. Acetylene gas was blown into the flask, and when the color of the liquid ammonia solution changed from bluish green to white, 97 g of geranyl acetone was added to the solution and the reaction was conducted under reflux for 4 hours. After completion of the reaction, 54 g of ammonium chloride was added to the reaction mixture and liquid ammonia was removed by distillation. Then, 500 ml of ethyl ether and 500 ml of water were added to the residue to cause phase separation. The organic layer was washed with water and distillation of the ether gave 108 g of dehydronerolidol.

reactant | ammonia | N | H3N
reactant | sodium | 11.5 g | [Na] | Na
reactant | Acetylene | C#C | C2H2
reactant | geranyl acetone | 97 g | C(\C=C(/C)\CCC=C(C)C)CC(C)=O | C13H22O
reactant | ammonium chloride | 54 g | [Cl-].[NH4+]
product | dehydronerolidol | 108 g | CC(=CCC/C(=C/CCC(C)(C#C)O)/C)C | C15H24O
